US04837238
7n-Butylamino-6-methyl-1H-pyrazolo[4,3-b]pyridine (E1)
A solution of ethyl 7-n-butylamino-1H-pyrazolo[4,3-b]-pyridine-6-carboxylate (524 mg, 2 mmol) in dry THF (15 ml) was added dropwise to a stirred suspension of lithium aluminium hydride (152 mg, 4 mmol) in THF (15 ml). The mixture was heated under reflux under nitrogen for 90 min then cooled. Ether (30 ml), water (0.15 ml), 10% sodium hydroxide solution (0.15 ml) and water (0.45 ml) were added sequentially, with stirring, and the mixture was filtered, then evaporated in vacuo. The glassy residue (300 mg) was recrystallised from ethyl acetate/ether, to give a white solid, m.p. 86°-95° C.

reactant | ethyl 7-n-butylamino-1H-pyrazolo[4,3-b]-pyridine-6-carboxylate | 2 mmol, 524 mg | C(CCC)NC1=C2C(=NC=C1C(=O)OCC)C=NN2 | C13H18N4O2
reactant | lithium aluminium hydride | 4 mmol, 152 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Ether | 30 ml | CCOCC | C4H10O
reactant | sodium hydroxide | 0.15 ml | [OH-].[Na+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | 0.45 ml | O | H2O
solvent | water | 0.15 ml | O | H2O
product | 7n-Butylamino-6-methyl-1H-pyrazolo[4,3-b]pyridine | C(CCC)NC1=C2C(=NC=C1C)C=NN2 | C11H16N4
